US08859571B2
A solution of 4-fluoro-N-methyl-3-nitrobenzenesulfonamide (2 g, 8.54 mmol) in THF (20 mL) was treated with triethylamine (2.380 mL, 17.08 mmol) followed by dropwise addition of benzyl chloroformate (3.75 mL, 11.10 mmol). The mixture was stirred at 25° C. for 5 hours before being concentrated. The residue was treated with water and extracted with CH2Cl2. The organic extracts were washed (brine), dried (sodium sulfate), concentrated, and subjected to flash chromatography (25-50% EtOAc-hexanes) to give a yellow solid, which was suspended in EtOAc-hexanes, collected by filtration, and washed with hexanes to give phenylmethyl[(4-fluoro-3-nitrophenyl)sulfonyl]methylcarbamate (1 g, 32%) as a white solid. MS (m/z) 391.0 (M+Na+).

reactant | 4-fluoro-N-methyl-3-nitrobenzenesulfonamide | 8.54 mmol, 2 g | FC1=C(C=C(C=C1)S(=O)(=O)NC)[N+](=O)[O-] | C7H7FN2O4S
reactant | triethylamine | 17.08 mmol, 2.380 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 11.10 mmol, 3.75 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | phenylmethyl[(4-fluoro-3-nitrophenyl)sulfonyl]methylcarbamate | 1 g, 32% | C1(=CC=CC=C1)COC(NCS(=O)(=O)C1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C15H13FN2O6S
